US06169107A
The reaction was carried out in a manner similar to Reference Example 18 b) except for using 7.71 g (22.4 mmol) of ethyl 7-benzyloxy-4-chloro-1-methyl-2-indolecarboxylate, 0.50 g of 10% palladium/carbon and 150 ml of tetrahydrofuran. Ethyl 4-chloro-7-hydroxy-1-methyl-2-indolecarboxylate was thus obtained in the yield of 4.70 g (82.6%).

reactant | ethyl 7-benzyloxy-4-chloro-1-methyl-2-indolecarboxylate | 22.4 mmol, 7.71 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=C(N(C12)C)C(=O)OCC)Cl | C19H18ClNO3
catalyst | palladium/carbon | 0.50 g | [Pd] | Pd
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Ethyl 4-chloro-7-hydroxy-1-methyl-2-indolecarboxylate | ClC1=C2C=C(N(C2=C(C=C1)O)C)C(=O)OCC | C12H12ClNO3
